US04636516
A mixture of 1.5 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-thioxo-4-imidazoline, 0.5 g of a Raney nickel catalyst, and 50 ml of absolute ethanol was refluxed for one hour and after filtering the reaction mixture, the filtrate was concentrated under reduced pressure. The residue was recrystallized from a mixture of cyclohexane and n-hexane to provide 1 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methylimidazole.

reactant | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-thioxo-4-imidazoline | 1.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1C)=S | C18H26N2OS
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methylimidazole | 1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=CNC1C | C18H26N2O
